US05677297
80 g of the product obtained above were suspended in 140 ml of dimethylformamide. A solution of 72.6 g of potassium phthalimide in 205 ml of dimethylformamide was added to the suspension, which was subsequently stirred at 60° C. for 16 hours. For working up, the mixture was cooled to room temperature and 800 ml of water were slowly added dropwise, and the mixture was stirred while cooling in ice for 2 hours. The resulting mass of crystals was filtered out with suction and washed first with a water/dimethylformamide mixture and then with methyl tert-butyl ether and subsequently dried under reduced pressure at 60° C. for 2 days. 73.3 g of 4,5-dihydro-3-phthalimido-1H-1-benzazepin-2(3H)-one with a melting range from 185 to 195° C. were obtained.

reactant | potassium phthalimide | 72.6 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | water | 800 ml | O | H2O
reactant | dimethylformamide | 140 ml | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 205 ml | CN(C=O)C | C3H7NO
product | 4,5-dihydro-3-phthalimido-1H-1-benzazepin-2(3H)-one | 73.3 g | C1(C=2C(C(N1C1C(NC3=C(CC1)C=CC=C3)=O)=O)=CC=CC2)=O | C18H14N2O3
